US07863291B2
To 2,3-dichloro-6-isothiocyanatopyridine (0.47 g, 2.29 mmol) in N,N-dimethylformamide (20 mL) was added triethylamine (0.8 mL, 5.7 mmol) and 3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.54 g, 2.34 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours, cooled to room temperature and concentrated in vacuo. The crude urea was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was then treated with N,N-dimethylformamide (20 mL) and N,N′-diisopropylcarbodiimide (1.07 mL, 6.88 mmol). The reaction was heated to 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude product was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH) to yield (R)—N-(5,6-dichloropyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine (0.36 g, 1.08 mmol, 47% yield) as a white powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 8.31 (d, J=1.22 Hz, 1 H), 7.84 (s, 1 H), 6.80 (s, 1 H), 3.85 (d, J=10.07 Hz, 1 H), 3.57 (d, J=10.38 Hz, 2 H), 2.98 (s, 3 H), 2.69-2.78 (m, 3 H), 2.65 (t, J=7.78 Hz, 3 H), 2.00 (s, 2 H), 1.86 (s, 2 H), 1.58 (dd, J=7.48, 2.90 Hz, 2 H), 1.56 (s, 1 H), 1.41-1.49 (m, 2 H). MS (LC/MS) R.T.=0.81; [M+H]+=327.1.

reactant | 2,3-dichloro-6-isothiocyanatopyridine | 2.29 mmol, 0.47 g | ClC1=NC(=CC=C1Cl)N=C=S | C6H2Cl2N2S
reactant | triethylamine | 5.7 mmol, 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 2.34 mmol, 0.54 g | Cl.Cl.NCC1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 6.88 mmol, 1.07 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)—N-(5,6-dichloropyridin-2-yl)-4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octan]-2-amine | 1.08 mmol, 0.36 g, 47% yield | ClC=1C=CC(=NC1Cl)NC=1O[C@]2(CN3CCC2CC3)CN1 | C14H16Cl2N4O
